US06353006B1
2-Methyl-2-hydroxypropylamine was reacted with SOCl2 followed by 2,3-dichlorophenyl isothiocyanate according to Method C2f to afford 2-(2,3-dichlorophenylimino)-5,5-dimethyl-1,3-thiazolidine. 2-(2,3-Dichlorophenylimino)-5,5-dimethyl-1,3-thiazolidine was reacted with ethylene oxide according to Method B5b to afford 2-(2,3-dichlorophenylimino)-5,5-dimethyl-1,3-thiazolidine HCl salt.

reactant | 2-(2,3-Dichlorophenylimino)-5,5-dimethyl-1,3-thiazolidine | ClC1=C(C=CC=C1Cl)N=C1SC(CN1)(C)C | C11H12Cl2N2S
reactant | ethylene oxide | C1CO1 | C2H4O
product | 2-(2,3-dichlorophenylimino)-5,5-dimethyl-1,3-thiazolidine HCl salt | Cl.ClC1=C(C=CC=C1Cl)N=C1SC(CN1)(C)C | InChI=1S/C11H12Cl2N2S.ClH/c1-11(2)6-14-10(16-11)15-8-5-3-4-7(12)9(8)13;/h3-5H,6H2,1-2H3,(H,14,15);1H
